US06429214B1
[3-(4-tert-Butoxycarbonylamino-butoxy)-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-yl]-acetic acid ethyl ester
The title compound is prepared according to the procedure of Example 19 except that (4-bromo-butyl)-carbamic acid tert-butyl ester is used in place of (3-bromo-propyl)-carbamic acid tert-butyl ester and (3-hydroxy-6,7,8,9-tetrahydro-5H-benzo-cyclohepten-6-yl)-acetic acid ethyl ester is used in place of (7-hydroxy-1,2,3,4-tetrahydro-napthalen-2-yl)-acetic acid ethyl ester.

reactant | (4-bromo-butyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCCCCBr)=O | C9H18BrNO2
reactant | (3-hydroxy-6,7,8,9-tetrahydro-5H-benzo-cyclohepten-6-yl)-acetic acid ethyl ester | C(C)OC(CC1CC2=C(CCC1)C=CC(=C2)O)=O | C15H20O3
product | [3-(4-tert-Butoxycarbonylamino-butoxy)-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-yl]-acetic acid ethyl ester | C(C)OC(CC1CC2=C(CCC1)C=CC(=C2)OCCCCNC(=O)OC(C)(C)C)=O | C24H37NO5
